US05707982
2[(4-bromophenyl)-thio]-tetrahydro-2H-pyran
2.3 mg of p-toluene sulfonic acid were added to a solution of 1 g of 4-bromo thiophenol in 1 ml of 3,4-dihydro-[2H]-pyran and 1 ml of tetrahydrofuran and the mixture was stirred for 20 hours at ambient temperature. 0.1 ml of triethylamine were added and the mixture was poured into a saturated solution of sodium bicarbonate and extracted with ethyl acetate. The extracts were washed with a saturated aqueous solution of sodium chloride, dried and evaporated to dryness under reduced pressure. The 1,603 g of residue were chromatographed on silica (eluant: cyclohexane-ethyl acetate 97.5-2.5) to obtain 1.246 g of the expected product.

reactant | p-toluene sulfonic acid | 2.3 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 4-bromo thiophenol | 1 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 3,4-dihydro-[2H]-pyran | 1 ml | O1CCCC=C1 | C5H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 2[(4-bromophenyl)-thio]-tetrahydro-2H-pyran | 1.246 g | BrC1=CC=C(C=C1)SC1OCCCC1 | C11H13BrOS
